US04908363
A solution of 120 ml of carbon disulfide and 60.6 g of dicyclohexycarbodiimide in 300 ml of tetrahydrofuran is cooled to -8° with an ice/salt mixture. Thereupon, 39.9 g of aminoacetaldehyde diethyl acetal are added dropwise while stirring so that the temperature of the reaction mixture does not exceed -5° (approximately 1 hour). The mixture is then warmed slowly to room temperature while stirring (approximately 2 hours) and left to stand overnight. The resulting precipitate (dicyclohexylthiourea) is then removed by filtration and washed thoroughly with n-hexane. The filtrate is concentrated in a vacuum and the separated dicyclohexylthiourea is again removed by filtration and washed with n-hexane. This procedure is repeated until dicyclohexylthiourea no longer separates upon concentration. Finally, the filtrate is freed completely from solvents. The residue is distilled at 11 Torr (bath temperature 130°-134°), whereby there is obtained 2,2-diethoxyethyl isothiocyanate in the form of a colorless oil; b.p. 100°/11 Torr.

reactant | carbon disulfide | 120 ml | C(=S)=S | CS2
reactant | aminoacetaldehyde diethyl acetal | 39.9 g | C(C)OC(CN)OCC | C6H15NO2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2,2-diethoxyethyl isothiocyanate | C(C)OC(CN=C=S)OCC | C7H13NO2S
